US04474977
1-Acetyloxy-1-(4-isopropylthiophenyl)-2-n-octylaminopropane hydrochloride
To 15 gr (40 mol) of 1-(4-isopropylthiophenyl)-2-n-octylamino-1-propanol hydrochloride, 12,6 gr (160 mmol) of acetyl chloride are added. Heating is provided for 1 hour at reflux temperature, then 30 ml of benzene are added, reflux being maintained for two further hours. When cooling, the resulting solution abandons a white solid. The latter is filtered, then recrystallised from benzene. The product then weighs 11.5 gr (28 mmol, 70%) and melt at 167.5° C.

reactant | 1-(4-isopropylthiophenyl)-2-n-octylamino-1-propanol hydrochloride | 40 mol, 15 gr | Cl.C(C)(C)SC1=CC=C(C=C1)C(C(C)NCCCCCCCC)O
reactant | acetyl chloride | 160 mmol, 12,6 gr | C(C)(=O)Cl | C2H3ClO
solvent | benzene | 30 ml | C1=CC=CC=C1 | C6H6
product | 1-Acetyloxy-1-(4-isopropylthiophenyl)-2-n-octylaminopropane hydrochloride | Cl.C(C)(=O)OC(C(C)NCCCCCCCC)C1=CC=C(C=C1)SC(C)C | InChI=1S/C22H37NO2S.ClH/c1-6-7-8-9-10-11-16-23-18(4)22(25-19(5)24)20-12-14-21(15-13-20)26-17(2)3;/h12-15,17-18,22-23H,6-11,16H2,1-5H3;1H
